US08022209B2
To a solution of 2-(2-bromo-thiophen-3-yl)-4-chloro-pyridine (80 mg, 0.3 mmol) in Et2O (3 mL) at −78° C. was added n-BuLi (1.6 M in hexanes, 0.2 mL). After 10 min, MeI (70 mg, 0.5 mmol) was added. The resulting mixture was maintained at −78° C. for 2 h, then was warmed to room temperature and stirred for 3 h. The reaction mixture was treated with 2 M aqueous NH4Cl and extracted with EtOAc. The organic layer was dried and concentrated to yield a residue. The residue was purified by preparative TLC (hexanes/EtOAc) to yield 4-chloro-2-(2-methyl-thiophen-3-yl)-pyridine as a solid.

reactant | 2-(2-bromo-thiophen-3-yl)-4-chloro-pyridine | 0.3 mmol, 80 mg | BrC=1SC=CC1C1=NC=CC(=C1)Cl | C9H5BrClNS
reactant | n-BuLi | 1.6 M, 0.2 mL | [Li]CCCC
reactant | MeI | 0.5 mmol, 70 mg | CI | CH3I
reactant | NH4Cl | 2 M | [NH4+].[Cl-]
solvent | Et2O | 3 mL | CCOCC | C4H10O
product | 4-chloro-2-(2-methyl-thiophen-3-yl)-pyridine | ClC1=CC(=NC=C1)C1=C(SC=C1)C | C10H8ClNS
